US04554100
9.0 grams of N, N-dicyclohexylcarbodiimide was added to a solution of 5.6 grams of proline ethylamide and 9.0 grams of benzyloxycarbonyl alanine in a mixture of 5 ml. of dimethylformamide and 60 ml. of tetrahydrofuran cooled to -5 degrees C. After 1 hour of stirring at 0 degrees C., the reaction mixture was permitted to stand for 12 hours at room temperature, so resulting in the separation of N, N-dicyclohexylurea which was filtered off. The filtrate was evaporated; the evaporation residue dissolved in a mixture of ethyl acetate and water. The organic phase formed was gradually shook with 1M hydrochloric acid, water, 5% sodium hydrogen carbonate, with water, dried with anhydrous sodium sulphate and evaporated. The evaporation residue was crystallized from a mixture of 30 ml. of ether and 30 ml. of petroleum ether. 5.4 g of a product having a melting point of 99 to 101 degrees C. was obtained.

reactant | proline ethylamide | 5.6 grams | C(C)NC([C@H]1NCCC1)=O | C7H14N2O
reactant | benzyloxycarbonyl alanine | 9.0 grams | C(C1=CC=CC=C1)OC(=O)N[C@@H](C)C(=O)O | C11H13NO4
reactant | dimethylformamide | CN(C=O)C | C3H7NO
reactant | tetrahydrofuran | O1CCCC1 | C4H8O
product | N, N-dicyclohexylurea | C1(CCCCC1)N(C(=O)N)C1CCCCC1 | C13H24N2O
